US05750523
1-(4-chorophenyl)-1,3-propanediol
To a solution of 5.0 g of ethyl-4-chlorobenzoylacetate in 100 ml of methylene chloride cooled to -30° C., 77.3 ml of diisopropylaluminium hydride (1.0 mol/l toluene solution) was added, and the resulting mixture was stirred for 30 minutes and then brought back to room temperature over 3 hours, and 4.14 g of methanol and 24.3 g of water were added carefully, and the mixture was stirred for another 1.5 hours. The precipitate was filtered off, and the filtrate was concentrated. The resulting residue was purified by silica gel column chromatography (eluent; n-hexane/ethyl acetate=1/1), to obtain 2.45 g of the title compound as a pale yellow oily substance.

reactant | ethyl-4-chlorobenzoylacetate | 5.0 g | C(C)OC(CC(C1=CC=C(C=C1)Cl)=O)=O | C11H11ClO3
reactant | diisopropylaluminium hydride | 1.0 mol/l, 77.3 ml | [H-].C(C)(C)[Al+]C(C)C
reactant | methanol | 4.14 g | CO | CH4O
reactant | water | 24.3 g | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chorophenyl)-1,3-propanediol | 2.45 g | ClC1=CC=C(C=C1)C(CCO)O | C9H11ClO2
